US06255285B1
To a solution of 9.89 g (26.7 mmol) of Z-Tyr(3-tBu)-NH2 in 350 ml of methanol, 3.5 g of 10% palladium carbon was added and the mixture was stirred in a hydrogen atmosphere at room temperature for 10 hours. After filtering, the filtrate was concentrated under reduced pressure and the resulting residue was subjected to silica gel column chromatography (eluting solvent; methylene chloride:methanol=20:1) to yield Tyr(3-tBu)-NH2 in the amount of 5.11 g (81%). NMR(method g,CDCl3): δ 1.40(9H,s), 2.64(1H,dd,J=9.6,13.9 Hz), 3.18(1H,dd,J=4.0,13.9 Hz), 3.49(1H,s), 3.58(1H,dd,J=4.0,9.6 Hz), 5.45(1H,brs), 6.65(1H,d,J=7.9 Hz), 6.92(1H,dd,J=2.0,12.0 Hz), 7.10(1H,d,J=2.0 Hz), 6.94(1H,d,6.6 Hz), 7.2-7.4(8H,m), 7.7-7.9(2H,m), 8.46(1H,d,7.6 Hz), 9.06(1H,d).

reactant | Z-Tyr(3-tBu)-NH2 | 26.7 mmol, 9.89 g | N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C(=O)OCC1=CC=CC=C1 | C21H26N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 350 ml | CO | CH4O
catalyst | palladium carbon | 3.5 g | [C].[Pd]
product | Tyr(3-tBu)-NH2 | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N | C13H20N2O2
